* Buck Converter - LTSpice Simulation
Vs IN 0 12
M1 IN G X X IRFH5306
D 0 X MBRB2545CT
L X OUT 100µ
C OUT 0 100µ
Ro OUT 0 6
V2 G X PULSE(0 10 0 1n 1n 5u 10u)
.model D D
.lib C:\Users\adeet\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.lib C:\Users\adeet\AppData\Local\LTspice\lib\cmp\standard.mos

.tran 0 10m 0 100n
.backanno
.end
